US07632840B2
A suspension of 4-[(3-chloro-2-fluorophenyl)amino]-6-hydroxy-7-methoxyquinazoline (800 mg, prepared as described in Reference Example 2 of WO03/82831 in methylene chloride (150 ml) was cooled to 0° C. and pyridine (1.5 ml) added. Triflic anhydride (507 μl) was then added dropwise and the resulting solution left to stir to room temperature. After 18 hours the reaction mixture was washed with water and brine, dried over MgSO4, filtered and evaporated under reduced pressure. The residues were then triturated with methylene chloride to give 4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl trifluoromethanesulfonate as a white solid which was collected by filtration and dried (880 mg, 79%); 1H NMR Spectrum: (DMSO d6) 4.13 (s, 3H), 7.37 (m, 1H), 7.56 (m, 1H), 7.64 (m, 1H), 7.66 (s, 1H), 8.86 (s, 1H), 9.06 (s, 1H), 11.7 (bs, 1H); Mass Spectrum: (M+H)+ 452.

reactant | 4-[(3-chloro-2-fluorophenyl)amino]-6-hydroxy-7-methoxyquinazoline | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)O)OC)F | C15H11ClFN3O2
reactant | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
reactant | Triflic anhydride | 507 μl | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C(=CC=C1)Cl)F)(F)F | C16H10ClF4N3O4S
